US08444955B2
(b) toluene-4-sulfonic acid 2-(2-hydroxy-ethoxy)ethyl ester
To a solution of diethylene glycol (22 g, 207.5 mmol) in CH2Cl2 (100 ml) was added triethylamine (10.5 g, 103.75 mmol). 9.89 (51.8 mmol) Toluene-4-sulfonyl chloride was added in one portion. The solution was stirred at room temperature for 1 hour. TLC was performed in 5% MeOH in DCM. After ½ hour a TLC showed formation of product. After 1 hour and 15 minutes the reaction mixture was washed with 0.1 M KHSO3 and 5% NaHCO3. The organic phase was dried with Na2SO3 and evaporated under reduced pressure. The crude reaction mixture was trapped on silica and purified by flash chromatography on a CombiFlash companion instrument (330 g column) using Hexane/EtOAc 50/50. Structure confirmed NMR.

reactant | diethylene glycol | 207.5 mmol, 22 g | C(COCCO)O | C4H10O3
reactant | triethylamine | 103.75 mmol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | Toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | toluene-4-sulfonic acid 2-(2-hydroxy-ethoxy)ethyl ester | OCCOCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O5S
